** PID Controllers

.subckt PI input output         kp=1 ki=1
    Gint        integral        gnd         input       gnd     {-ki}
    Cint        integral        gnd         1           ic=0
    Rint        integral        gnd         100G ; for ac convergence

    Eout        output          integral    input       gnd     {kp}

.ends PI





